US05686480
Carbonyldiimidazole (1.3 g) was added portionwise to a stirred solution of (4-(4-methoxyphenyl)-piperazin-1-yl)-acetic acid (2.00 g) in 3:1 THF-DMF (40 cm3) at room temperature. After 15 minutes, the solution was cannulated into the above yellow solution. The resulting grey-green slurry was stirred at -78° C. for 15 minutes, then warmed to room temperature and poured into dilute aqueous ammonium chloride (200 cm3). The mixture was extracted with ethyl acetate (100 cm3). The organic extract was dried (MgSO4), filtered and concentrated to give a brown oil. The oil was redissolved in ethyl acetate (50 cm3) and a saturated solution of hydrogen chloride gas in ethyl acetate (50 cm3) was added. After chilling at 0° C. for 24 hours, the brown precipitate was collected to give 2-(1-hydroxy-2-(4-(4-methoxyphenyl)-piperazin-1-yl)-ethylidene)-indan-1-one dihydrochloride (0.82 g; 23%); δH (d6 -DMSO) 3.20-3.70 (8H, m, 2 x NCH2CH2N, partly obscured by H2O signal), 3.62 (2H, s, --CH2 --), 3.71 (3H, s, OCH3), 4.70 (2H, s, --CH2 N), 6.88 (2H, d, J 9, 2 of ArH), 7.03 (2H, d, J 9, 2 of ArH), 7.45 (1H, dd, J 7, 1 of ArH), 7.62-7.59 (2H, m, 2 of ArH) and 8.14 (1H, broad d, J 7, 1 of ArH).

reactant | Carbonyldiimidazole | 1.3 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (4-(4-methoxyphenyl)-piperazin-1-yl)-acetic acid | 2.00 g | COC1=CC=C(C=C1)N1CCN(CC1)CC(=O)O | C13H18N2O3
reactant | ammonium chloride | 200 cm3 | [Cl-].[NH4+]
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 50 cm3 | C(C)(=O)OCC | C4H8O2
solvent | THF DMF | 40 cm3 | C1CCOC1.CN(C)C=O
product | 2-(1-hydroxy-2-(4-(4-methoxyphenyl)-piperazin-1-yl)-ethylidene)-indan-1-one dihydrochloride | 0.82 g, 23% | Cl.Cl.OC(CN1CCN(CC1)C1=CC=C(C=C1)OC)=C1C(C2=CC=CC=C2C1)=O | InChI=1S/C22H24N2O3.2ClH/c1-27-18-8-6-17(7-9-18)24-12-10-23(11-13-24)15-21(25)20-14-16-4-2-3-5-19(16)22(20)26;;/h2-9,25H,10-15H2,1H3;2*1H
